US04555521
By the method of L. Weinstock, et al., supra, 0.5 g (0.0023 mole) 4-(4-chlorophenyl)-3-hydroxy-1,2,5-thiadiazole, 0.36 g (0.0026 mole) of potassium carbonate and 0.37 g (0.0026 mole) of iodomethane in 15 ml of N,N-dimethylformamide were reacted to produce 0.45 g of 4-(4-chlorophenyl)-3-methoxy-1,2,5-thiadiazole, Compound 25 of Table I. Compounds 22-24, 26-29, 31, 35, 37, and 39-41 were also prepared by this method, except that, in some cases sodium carbonate was used in place of potassium carbonate and/or an appropriate bromide or chloride was used in place of methyl iodide.

reactant | 4-(4-chlorophenyl)-3-hydroxy-1,2,5-thiadiazole | 0.0023 mole, 0.5 g | ClC1=CC=C(C=C1)C=1C(=NSN1)O | C8H5ClN2OS
reactant | potassium carbonate | 0.0026 mole, 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.0026 mole, 0.37 g | IC | CH3I
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-3-methoxy-1,2,5-thiadiazole | 0.45 g | ClC1=CC=C(C=C1)C=1C(=NSN1)OC | C9H7ClN2OS
